US06147031
Preparation of methyl 3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoate
6.00 g of crude methyl 3-hydroxyiminomethyl-4-methylsulfonyl-2-methylbenzoate was dissolved in 100 ml of chloroform Chlorine was blown into the resulting solution, with stirring, for 35 minutes at -3~3° C. The solution was further stirred for 30 minutes at 0° C. Nitrogen gas was blown into the reaction solution to remove excessive chlorine. Further chloroform was distilled out under reduced pressure to give viscous oil. The obtained oil was dissolved in 90 ml of ether, and ethylene was blown in, with stirring, for 5 minutes at -10° C. Then 7 ml of triethylamine and 7 ml of ether were added dropwise at -10° C. Further ethylene was blown in for 20 minutes. The resulting reaction mixture was transferred to a 200 ml, stainless-steel autoclave, which was cooled beforehand, and stirred for 3.5 hours at 60~70° C. The reaction solution was cooled down, poured into water, acidified with hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with water, then with a saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was distilled out under reduced pressure. The obtained crude product was purified by column chromatography on silica gel with n-hexane/ethyl acetate=2/1 to give 3.20 g of the title compound as white crystals. m.p. 104~106.5° C.

reactant | methyl 3-hydroxyiminomethyl-4-methylsulfonyl-2-methylbenzoate | 6.00 g | ON=CC=1C(=C(C(=O)OC)C=CC1S(=O)(=O)C)C | C11H13NO5S
reactant | ethylene | C=C | C2H4
reactant | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | chloroform Chlorine | 100 ml | [Cl].C(Cl)(Cl)Cl
solvent | ether | 90 ml | CCOCC | C4H10O
solvent | ether | 7 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | methyl 3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoate | 3.20 g | O1N=C(CC1)C=1C(=C(C(=O)OC)C=CC1S(=O)(=O)C)C | C13H15NO5S
